US07973039B2
Intermediate B1: 1-(4-fluorophenyl)-4-(methylsulfonyl)piperazine
To a suspension of 1-(4-fluorophenyl)piperazine dihydrochloride (2.53 g; 10.0 mmol; 1.0 eq.) in anhydrous DCM (50 mL) was added TEA (3.33 g; 33.0 mmol; 3.3 eq.) and the resulting mixture was chilled at 0° C. A 1N solution of methanesulfonyl chloride (1.26 g; 11.0 mmol; 1.1 eq.) in DCM (11 mL) was added dropwise. After 20 min at 0° C., the reaction mixture was stirred at rt for 3 h. Water was added and the mixture extracted with DCM. The combined organic layers were washed with an aqueous saturated solution of NaHCO3, water, brine then dried over MgSO4, filtered and evaporated to give a white powder. Crystallization from EtOAc gave a white solid (1.98 g, 76% yield). HPLC, Rt: 2.3 min (purity: 100%). 1H NMR (CDCl3) δ: 7.08-6.83 (m, 4H), 3.41 (m, 4H), 3.22 (m, 4H), 2.85 (s, 3H).

reactant | 1-(4-fluorophenyl)piperazine dihydrochloride | 10.0 mmol, 2.53 g, 1.0 eq. | Cl.Cl.FC1=CC=C(C=C1)N1CCNCC1
reactant | methanesulfonyl chloride | 11.0 mmol, 1.26 g, 1.1 eq. | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 11 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-fluorophenyl)-4-(methylsulfonyl)piperazine | 1.98 g, 76% yield | FC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C | C11H15FN2O2S
